US04092321
Alternatively, 2-amino-5-(phenylthio) pyridine (30 g., 0.15 moles) is added portionwise to 30 ml. of concentrated hydrochloric acid at 0°. The resultant suspension is cooled to -15° C and 20.7 g. of sodium nitrite in 40 ml. of water is added dropwise while keeping the temperature at -15° to -10° C. After stirring for an additional hour at -5° C, an aqueous 30% sodium hydroxide solution is slowly added to pH7 while not allowing the temperature to exceed 0° C. The resultant mixture is extracted with methylene chloride and the combined extracts are washed with water, dried and evaporated in vacuo to yield 2-chloro-5-(phenylthio) pyridine.

reactant | 2-amino-5-(phenylthio) pyridine | 0.15 moles, 30 g | NC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H10N2S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-chloro-5-(phenylthio) pyridine | ClC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H8ClNS
